US04045445
A mixture of 9 g of crude 1-methyl-2'-(N-methylanilino)isonipecotanilide base, 10 g of phosphorus pentoxide and 30 ml of phosphorus oxychloride is heated under reflux for 4 hours, and the reaction mixture is diluted with ether and slowly added to an ice-cold solution of ammonium hydroxide. The mixture is filtered, and the ether layer is separated, dried over anhydrous potassium carbonate and evaporated to yellow solid residue (8.0 g). This crude cyclized base is dissolved in 100 ml of dilute acetic acid, the solution is clarified with activated charcoal and the filtrate is made basic with ammonium hydroxide. The precipitated base is collected, dissolved in 30 ml of ether, and the ether layer is dried over anhydrous potassium carbonate. This solution is filtered into 100 ml of petroleum ether. The product crystallizes as a yellow solid and is collected and dried in vacuo; 5-methyl-11-(1-methyl-4-piperidyl)-5H-dibenzo[b,e][1,4]-diazepine, m.p. 119°-121° C., is thereby obtained; IR (KBr) 6.15μ (anil C=N).

reactant | 1-methyl-2'-(N-methylanilino)isonipecotanilide | 9 g | CN1CCC(C(=O)NC2=C(C=CC=C2)N(C2=CC=CC=C2)C)CC1 | C20H25N3O
reactant | phosphorus pentoxide | 10 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 5-methyl-11-(1-methyl-4-piperidyl)-5H-dibenzo[b,e][1,4]-diazepine | CN1C2=C(N=C(C3=C1C=CC=C3)C3CCN(CC3)C)C=CC=C2 | C20H23N3
